US05051423
N-[4-[[2-Hydroxy-3-[4-(2-methoxyethyl)phenoxy]propyl]aminomethyl]phenyl]methanesulfonamide hydrochloride
1,2-epoxy-3-[4-(2-methoxyethyl)phenoxy]propane (63.7 mmol) in 15 mL of MeOHis added dropwise to a solution of N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride (62.4 mmol) in 1M KOH in MeOH (65 mL) at room temperature. H2O (5 mL) is added ad the mixture is refluxed overnight. Methanol is removed from the cooled mixture under reduced pressure, and the residue is partitioned between H2O and CH2Cl2, and the combined organic portions are washed with brine and dried with anhydrous Na2SO4. After removal of the solvent under reduced pressure the hydrochloride salt is formed and recrystallized with CH3CN/MeOH to yield the title compound.

reactant | 1,2-epoxy-3-[4-(2-methoxyethyl)phenoxy]propane | 63.7 mmol | O1CC1COC1=CC=C(C=C1)CCOC | C12H16O3
reactant | N-[4-(aminomethyl)phenyl]methanesulfonamide hydrochloride | 62.4 mmol | Cl.NCC1=CC=C(C=C1)NS(=O)(=O)C
reactant | H2O | 5 mL | O | H2O
solvent | MeOHis | 15 mL | CON[C@@H](CC1=CNC=N1)C(=O)O | C7H11N3O3
solvent | KOH | 1M | [OH-].[K+]
solvent | MeOH | 65 mL | CO | CH4O
product | N-[4-[[2-Hydroxy-3-[4-(2-methoxyethyl)phenoxy]propyl]aminomethyl]phenyl]methanesulfonamide hydrochloride | Cl.OC(CNCC1=CC=C(C=C1)NS(=O)(=O)C)COC1=CC=C(C=C1)CCOC | InChI=1S/C20H28N2O5S.ClH/c1-26-12-11-16-5-9-20(10-6-16)27-15-19(23)14-21-13-17-3-7-18(8-4-17)22-28(2,24)25;/h3-10,19,21-23H,11-15H2,1-2H3;1H
